US09145413B2
a. 3-Pyrrolidin-1-yl-propionic acid N-(5-fluoro-pyridin-2-yl)-hydrazide (Intermediate 1a)
5-fluoro-2-hydrazinopyridine (285 mg, 2.24 mmol) and 3-(pyrrolidin-1-yl)propanoic acid hydrochloride (400 mg, 2.24 mmol) were dissolved in DMF (15 mL). EDC (516 mg, 2.69 mmol), HOBt (30.0 mg, 0.22 mmol) and triethylamine (374 μL, 2.69 mmol) were added and the reaction stirred for 18 h. The mixture was loaded onto an SCX-2 cartridge, which was washed with MeOH then with 2M NH3 in MeOH. The basic fractions were evaporated in vacuo then purified by FCC using 0-10% [2M NH3 in MeOH] in DCM to give the title compound contaminated with several impurities (400 mg). The product was used in the next step without further purification.

reactant | 5-fluoro-2-hydrazinopyridine | 2.24 mmol, 285 mg | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | 3-(pyrrolidin-1-yl)propanoic acid hydrochloride | 2.24 mmol, 400 mg | Cl.N1(CCCC1)CCC(=O)O
reactant | EDC | 2.69 mmol, 516 mg
reactant | HOBt | 0.22 mmol, 30.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 2.69 mmol, 374 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3-Pyrrolidin-1-yl-propionic acid N-(5-fluoro-pyridin-2-yl)-hydrazide | FC=1C=CC(=NC1)N(N)C(CCN1CCCC1)=O | C12H17FN4O
